US04306097
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-cyclohex-3-ene-1-ol
To a -18° C. solution of 17.5 g (50 mmol) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-cyclohex-3-enone in 50 ml of methanol is added 1.9 g (50 mmol) of sodium borohydride. The reaction mixture is stirred for 30 minutes and then added to 250 ml of saturated sodium chloride-250 ml of ether. The ether extract is washed once with 250 ml of saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 400 g of silica gel eluted with 50% ether-pentane to yield the title compound.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-cyclohex-3-enone | 50 mmol, 17.5 g | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CC(CCC1)=O)O | C21H30O2
reactant | sodium borohydride | 50 mmol, 1.9 g | [BH4-].[Na+]
reactant | sodium chloride | 250 ml | [Cl-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-cyclohex-3-ene-1-ol | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CC(CCC1)O)O | C21H32O2
